US04233318
To a mixture of 1.74 grams (0.02 mole) of ethyl isothiocyanate and 25 milliliters of benzene was added 2.14 grams (0.02 mole) of benzylamine. The temperature rose from 25° C. to 41° C. The reaction mixture was then refluxed on a steam bath for about 20 minutes to bring the reaction to completion. The mixture was evaporated under vacuum to give 3.67 grams of 1-ethyl-3-benzyl thiourea.

reactant | ethyl isothiocyanate | 0.02 mole, 1.74 grams | C(C)N=C=S | C3H5NS
reactant | benzylamine | 0.02 mole, 2.14 grams | C(C1=CC=CC=C1)N | C7H9N
solvent | benzene | 25 milliliters | C1=CC=CC=C1 | C6H6
product | 1-ethyl-3-benzyl thiourea | 3.67 grams | C(C)NC(=S)NCC1=CC=CC=C1 | C10H14N2S
